US03951996
Nicotinic acid (0.5 mole), diethylamine (0.5 mole), toluene (35 ml), n-butanol (60 ml) and tetra n-butoxy titanium were heated until all water was removed by azeotropic distillation from the reaction mixture. The volatile solvents were then distilled off and the remaining product fractionally distilled under vacuum to give nikethamide identified both by its boiling point and its infra-red spectrum.

reactant | Nicotinic acid | 0.5 mole | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | diethylamine | 0.5 mole | C(C)NCC | C4H11N
reactant | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
reactant | n-butanol | 60 ml | C(CCC)O | C4H10O
catalyst | tetra n-butoxy titanium | C(CCC)O[Ti](OCCCC)(OCCCC)OCCCC
solvent | water | O | H2O
product | nikethamide | CCN(CC)C(=O)C=1C=CC=NC1 | C10H14N2O
